US05290780
3-[(4-Bromophenyl)methyl]-2-butyl-6-(1-hydroxy-1-methylethyl)-4(3H)-quinazolinone
To a solution of 1.37 g of 2-butyl-6-(1-hydroxy-1-methylethyl)-4(1H)-quinazolinone in 115 ml of acetone is added 1.58 g of 4-bromobenzyl bromide and 2.18 g of anhydrous potassium carbonate. The resulting suspension is heated to reflux for 16 hours. The reaction mixture is then allowed to cool to room temperature, filtered and the filtrate is concentrated vacuo. The residue is purified by HPLC eluting with ethyl acetate/hexanes (1:3) to provide the desired product.

reactant | 2-butyl-6-(1-hydroxy-1-methylethyl)-4(1H)-quinazolinone | 1.37 g | C(CCC)C=1NC2=CC=C(C=C2C(N1)=O)C(C)(C)O | C15H20N2O2
reactant | 4-bromobenzyl bromide | 1.58 g | BrC1=CC=C(CBr)C=C1 | C7H6Br2
reactant | potassium carbonate | 2.18 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 115 ml | CC(=O)C | C3H6O
product | 3-[(4-Bromophenyl)methyl]-2-butyl-6-(1-hydroxy-1-methylethyl)-4(3H)-quinazolinone | BrC1=CC=C(C=C1)CN1C(=NC2=CC=C(C=C2C1=O)C(C)(C)O)CCCC | C22H25BrN2O2
